US07294743B2
C. Using DIPEA as a Base
Agmatine sulphate (2.28 g, 10 mmol) was dissolved in distilled water (10 ml) in a round-bottom flask (50 ml) equipped with a magnetic stirrer. Diisopropylethyldiamine (DIPEA) (3.88 g, 5.23 ml, 20 mmol) was added to the round-bottom flask together with acetone (10 ml). The reaction mixture was cooled down on an ice-bath and the mixture was stirred for 10 minutes at 5° C. Acryloyl chloride (1.81 g, 1.625 ml, 20 mmol), dissolved in acetone (5 ml), was added drop wise to the flask using a Pasteur-pipette. The reaction was allowed to proceed at 5° C. for 1 h. The stirring was then stopped. K2CO3 was added to the round-bottom flask until the pH was settled to 12. The volume of the aqueous phase was then 75 ml. The aqueous phase was then extracted with MIBK (2 times 150 ml) to remove DIPEA. The pH of the aqueous phase was then fixed to pH 2.3 by addition of concentrated sulphuric acid. The aqueous phase was then extracted with MIBK (3 times 150 ml) to remove excess acrylic acid formed during the reaction. The pH of the aqueous phase was then fixed to pH 7 by addition of K2CO3. The yield was at least 95%.

reactant | Agmatine sulphate | 10 mmol, 2.28 g | S(=O)(=O)(O)O.NC(NCCCCN)=N
reactant | Acryloyl chloride | 20 mmol, 1.625 ml, 1.81 g | C(C=C)(=O)Cl | C3H3ClO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | DIPEA | yield was at least 95% | CCN(C(C)C)C(C)C | C8H19N
